US06265434B1
Step A: 4-Formyl-piperidine-1-carboxylic acid, tert-butyl ester
To a solution of 15.9 mL of LDA (2 M solution in THF) in 25 mL of THF at −78° C. was added 36.6 mL of diisopropylamine followed by 15.9 ml of (trimethylsilyl)diazomethane dropwise. After stirring at −78° C. for 30 min, 5.25 g of tert-butyl-4oxo-1-piperidinecarboxylate in 10 mL of THF was added slowly over 10 min. The reaction was stirred at −78° C. for 1 hr. After refluxing for 4 hr, the reaction was quenched with cold water and extracted with 3×70 mL of EtOAc. The combined organic phases were dried over MgSO4 and concentrated. The residue was dissolved in 150 mL of EtOAc, then 10 g of silica gel was added. After stirring at rt for 16 hr, silica gel was filtered off. Concentration of filtrate followed by flash chromatography eluting with 25% EtOAc in hexane followed by 100% EtOAc afforded 3.66 g of the title compound as an oil.

reactant | LDA | 2 M, 15.9 mL | [Li+].CC(C)[N-]C(C)C
reactant | diisopropylamine | 36.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | (trimethylsilyl)diazomethane | 15.9 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | tert-butyl-4oxo-1-piperidinecarboxylate | 5.25 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Formyl-piperidine-1-carboxylic acid, tert-butyl ester | 3.66 g | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
